US08445510B2
4-{[tert-Butyl(dimethyl)silyl]oxy}-1-[1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazol-2-yl]piperidine
A mixture of 4-{[tert-Butyl(dimethyl)silyl]oxy}-1-(1-methyl-1H-imidazol-2-yl)piperidine (0.100 g, 0.340 mmol), [Ir(OMe)(COD)]2 (8.2 mg, 0.012 mmol), 4,4′-Di-tert-butyl-[2,2′]bipyridinyl (4.9 mg, 0.018 mmol), and bis(pinacolato)diboron (88.0 mg, 0.346 mmol) in a microwave vial was taken up in Heptane (1.0 mL, 6.8 mmol). The mixture was flushed with nitrogen, sealed and heated in a microwave reactor to 100° C. for 30 min. LC/MS of the reaction mixture indicated clean and complete conversion of the imidazole starting material to the boronate. The title compound was not isolated; instead, the heptane solution was directly used in the next step. MS (ES+): m/z=339.34/340.26/341.31 (48/100/50) [MH+]. HPLC: tR=2.44 min (nonpolar—5 min, ZQ3). UV: λmax≈240 nm.

reactant | 4-{[tert-Butyl(dimethyl)silyl]oxy}-1-(1-methyl-1H-imidazol-2-yl)piperidine | 0.340 mmol, 0.100 g | [Si](C)(C)(C(C)(C)C)OC1CCN(CC1)C=1N(C=CN1)C | C15H29N3OSi
reactant | 4,4′-Di-tert-butyl-[2,2′]bipyridinyl | 0.018 mmol, 4.9 mg | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
reactant | bis(pinacolato)diboron | 0.346 mmol, 88.0 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | Heptane | 6.8 mmol, 1.0 mL | CCCCCCC | C7H16
product | 4-{[tert-Butyl(dimethyl)silyl]oxy}-1-[1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazol-2-yl]piperidine | [Si](C)(C)(C(C)(C)C)OC1CCN(CC1)C=1N(C(=CN1)B1OC(C(O1)(C)C)(C)C)C | C21H40BN3O3Si
